US06362211B1
d) 8a-(1H-Imidazol-4-yl)-1,2,3,3a,8,8a-hexahydrocyclopenta[a]inden-3-ol
To a solution of 8a-(1H-imidazol-4-yl)-1,3a,8,8a-tetrahydro-2H-cyclopenta[a]inden-3-one (1 g) in 40 ml of ethanol was added 0.16 g of sodium borohydride under a nitrogen atmosphere. The reaction mixture was stirred at 35-40° C. for 4 hours and then poured into water (100 ml) and extracted with methylene chloride (3×100 ml). The combined organic layers were dried over sodium sulfate and the solvent removed under reduced pressure. The crude product was purified by flash chromatography using methylene chloride/methanol (95:5) as eluent. The yield was 0.6 g, m.p. 183-186° C.

reactant | 8a-(1H-imidazol-4-yl)-1,3a,8,8a-tetrahydro-2H-cyclopenta[a]inden-3-one | 1 g | N1C=NC(=C1)C12C(C=3C=CC=CC3C1)C(CC2)=O | C15H14N2O
reactant | sodium borohydride | 0.16 g | [BH4-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 8a-(1H-Imidazol-4-yl)-1,2,3,3a,8,8a-hexahydrocyclopenta[a]inden-3-ol | N1C=NC(=C1)C12C(C=3C=CC=CC3C1)C(CC2)O | C15H16N2O
